US05389655
4. 3-Phenyl-4-(2-diethylaminoethylmercapto)-1,2,5-oxadiazole-2-oxide hydrochloride
4.75 g of 2-diethylaminoethyl mercaptan hydrochloride are slowly treated with 3.3 g of a 50% strength sodium hydride in oil suspension in 100 ml of THF under a nitrogen atmosphere. After 1 hour, 5 g of 3-phenyl-4-nitrofuroxan are introduced and the mixture is stirred for 20 hours. The inorganic salts are filtered off with suction and the filtrate is concentrated. The residue is taken up in water and extracted with methylene chloride. After drying and concentrating, the residue is dissolved in ethyl acetate and the product is precipitated by introducing hydrogen chloride and filtered off with suction.

reactant | 2-diethylaminoethyl mercaptan hydrochloride | 4.75 g | Cl.C(C)N(CCS)CC
reactant | sodium hydride | [H-].[Na+]
reactant | 3-phenyl-4-nitrofuroxan | 5 g | C1(=CC=CC=C1)C1=[N+](ON=C1[N+](=O)[O-])[O-] | C8H5N3O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Phenyl-4-(2-diethylaminoethylmercapto)-1,2,5-oxadiazole-2-oxide hydrochloride | Cl.C1(=CC=CC=C1)C1=[N+](ON=C1SCCN(CC)CC)[O-] | InChI=1S/C14H19N3O2S.ClH/c1-3-16(4-2)10-11-20-14-13(17(18)19-15-14)12-8-6-5-7-9-12;/h5-9H,3-4,10-11H2,1-2H3;1H
